US08871788B2
6-Bromo-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline
To a stirred solution of sulfuric acid (60% w/w, 20 g) in 32 mL of toluene at r.t. was added 7.60 g of N-[2-(3-bromo-phenyl)-ethyl]-4-methyl-benzenesulfonamide, followed by 32 mL of dimethoxymethane. The reaction mixture was heated over an oil bath set at 50° C. externally with stirring under nitrogen for 15 h. LC/MS: retention time=4.549 min, MS 366/368. TLC (DCM): SM Rf=0.35, product Rf=0.65. The reaction was complete as judged by TLC. The reaction mixture was cooled to r. t. and diluted with ether (100 mL). The two layers were separated and the aqueous layer was extracted with ether (25 mL). The combined ethereal solution was washed with water (25 mL), saturated sodium bicarbonate (25 mL) and brine (20 mL), sequentially. Then, the ethereal solution was dried over anhydrous granular potassium carbonate, filtered, and concentrated in vacuo. The crude product, a solid after standing, was re-crystallized from ether (75 mL) and pentane (100 mL). The material was collected by suction filtration and dried under vacuum to obtain 6.6 g (90%) of the title compound as a white crystalline solid:

reactant | sulfuric acid | 20 g | S(O)(O)(=O)=O | H2O4S
reactant | N-[2-(3-bromo-phenyl)-ethyl]-4-methyl-benzenesulfonamide | 7.60 g | BrC=1C=C(C=CC1)CCNS(=O)(=O)C1=CC=C(C=C1)C | C15H16BrNO2S
reactant | dimethoxymethane | 32 mL | COCOC | C3H8O2
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | toluene | 32 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | 100 mL | CCOCC | C4H10O
product | 6-Bromo-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline | 6.6 g, 90% | BrC=1C=C2CCN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C | C16H16BrNO2S
